US05273972
2-(1-Pyrrolidinylmethyl)-1-azabicyclo[2.2.2]octan-3-one oxime
A suspension of quinuclidine-3-one hydrochloride (16.2 g, 0.1 mole) in 95% ethanol (25 ml) was treated with 50% sodium hydroxide (8.0 g, 0.1 mole) and stirred until homogeneous. In a separate reactor a cooled (0° C.) solution of pyrrolidine (10.7 g, 0.15 mole) in 95% ethanol (25 ml) was treated dropwise with 37% aqueous formaldehyde (11.5 ml, 0.15 mole), and the solution was stirred at 25° C. for 30 minutes. The two solutions were combined and the mixture was refluxed for 4 hours, cooled, and added to ether (250 ml). Magnesium sulfate was added, and the mixture was stirred for 15 minutes and filtered. The filtrate was concentrated in vacuo, dissolved in methanol (100 ml), and treated with hydroxylamine hydrochloride (7.65 g, 110 mmoles), then with 25% sodium methoxide (2.2 g, 10 mmoles). After 2 hours at room temperature additional 25% sodium methoxide (21.6 g, 100 mmoles) was added and after 15 minutes the solution was filtered. The filtrate was concentrated in vacuo to a residue, which was dissolved in methylene chloride (150 ml) and filtered. The filtrate was concentrated in vacuo, and the residue was triturated from cold ether, then from cold acetonitrile ether to afford 8.09 g (36%) of fine colorless needles, mp 194°-195° C.

reactant | quinuclidine-3-one hydrochloride | 0.1 mole, 16.2 g | Cl.N12CC(C(CC1)CC2)=O
reactant | sodium hydroxide | 0.1 mole, 8.0 g | [OH-].[Na+]
reactant | pyrrolidine | 0.15 mole, 10.7 g | N1CCCC1 | C4H9N
reactant | formaldehyde | 0.15 mole, 11.5 ml | C=O | CH2O
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | hydroxylamine hydrochloride | 110 mmoles, 7.65 g | Cl.NO
reactant | sodium methoxide | 10 mmoles, 2.2 g | C[O-].[Na+]
reactant | sodium methoxide | 100 mmoles, 21.6 g | C[O-].[Na+]
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-(1-Pyrrolidinylmethyl)-1-azabicyclo[2.2.2]octan-3-one oxime | 8.09 g, 36% | N1(CCCC1)CC1N2CCC(C1=NO)CC2 | C12H21N3O
